US03970693
p-Methylthiobenzyltriphenylphosphonium chloride
In a similar manner, when p-methylsulfinylbenzyl chloride is used, the product is p-methylsulfinylbenzyltriphenylphosphonium chloride, melting point 258°-262°C with gasing.

reactant | p-methylsulfinylbenzyl chloride | CS(=O)C1=CC=C(CCl)C=C1 | C8H9ClOS
reactant | p-methylsulfinylbenzyltriphenylphosphonium chloride | [Cl-].CS(=O)C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
product | p-Methylthiobenzyltriphenylphosphonium chloride | [Cl-].CSC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C26H24PS.ClH/c1-28-26-19-17-22(18-20-26)21-27(23-11-5-2-6-12-23,24-13-7-3-8-14-24)25-15-9-4-10-16-25;/h2-20H,21H2,1H3;1H/q+1;/p-1
